US06730792B2
A mixture of 2-methoxybenzaldehyde (10.0 g, 73.4 mmol), tosylmethylisocyanide (14.34 g, 73.4 mmol) and potassium carbonate (10.14 g, 73.4 mmol) in 220 ml methanol is heated at reflux for 6 hours. The solvent is removed under reduced pressure and the residue poured into ice-water (800 ml). The precipitate is collected by filtration, washed with water, and dried in vacuo to give 9.05 g of 5-(2-methoxyphenyl)oxazole (70%).

reactant | 2-methoxybenzaldehyde | 73.4 mmol, 10.0 g | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | tosylmethylisocyanide | 73.4 mmol, 14.34 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium carbonate | 73.4 mmol, 10.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 220 ml | CO | CH4O
product | 5-(2-methoxyphenyl)oxazole | 9.05 g, 70% | COC1=C(C=CC=C1)C1=CN=CO1 | C10H9NO2
